US08207167B2
1-(3-Nitrophenyl)ethane-1,2-diol
2-Hydroxy-2-(3-nitrophenyl)ethyl acetate (18 g) was dissolved in MeOH (180 mL) and cooled to 0° C. K2CO3 (22 g) was added and the reaction stirred at room temperature for 2 hours. The mixture was concentrated under vacuum, quenched by addition of water (100 mL) and extracted with ethyl acetate (2×100 mL). The EtOAc layer was dried over Na2SO4 and concentrated to give the crude title compound (13 g, 88%).

reactant | 2-Hydroxy-2-(3-nitrophenyl)ethyl acetate | 18 g | C(C)(=O)OCC(C1=CC(=CC=C1)[N+](=O)[O-])O | C10H11NO5
reactant | K2CO3 | 22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 180 mL | CO | CH4O
product | 1-(3-Nitrophenyl)ethane-1,2-diol | 13 g, 88% | [N+](=O)([O-])C=1C=C(C=CC1)C(CO)O | C8H9NO4
